US05246948
i) Synthesis of 1,3-bis[4-(4-pyridylthio)butyl]-5,5-dimethylhydantoin
To a suspension of 96 mg (2.4 mmol) of 60% sodium hydride (oily) in 15 ml of dimethylformamide, 587 mg (2.0 mmol) of 3-[4-(4-pyridylthio)butyl]-5,5-dimethylhydantoin was added, and the mixture was stirred at room temperature for 10 minutes. To this reaction mixture, 807 mg (4.0 mmol) of 4-(4-chlorobutylthio)pyridine was added with stirring under ice-cooling, and the mixture was stirred at 80° C. for 16 hours. After cooling, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried and the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate/ethanol =10:1) to give 0.74 g of the desired product (80.7% yield, yellow oil).

reactant | sodium hydride | 2.4 mmol, 96 mg | [H-].[Na+]
reactant | 3-[4-(4-pyridylthio)butyl]-5,5-dimethylhydantoin | 2.0 mmol, 587 mg | N1=CC=C(C=C1)SCCCCN1C(NC(C1=O)(C)C)=O | C14H19N3O2S
reactant | 4-(4-chlorobutylthio)pyridine | 4.0 mmol, 807 mg | ClCCCCSC1=CC=NC=C1 | C9H12ClNS
reactant | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1,3-bis[4-(4-pyridylthio)butyl]-5,5-dimethylhydantoin | 0.74 g, 80.7% yield | N1=CC=C(C=C1)SCCCCN1C(=O)N(C(=O)C1(C)C)CCCCSC1=CC=NC=C1 | C23H30N4O2S2
